US09353082B2
b) 3-(1-(cyclohexyl(methyl)carbamoyl)-1H-imidazol-4-yl)pyridine 1-oxide
To a stirred solution of N-cyclohexyl-N-methyl-4-(pyridin-3-yl)-1H-imidazole-1-carboxamide (90 mg, 0.317 mmol) in chloroform (5 mL) was added 3-chlorobenzoperoxoic acid (149 mg, 0.475 mmol) in one portion. The reaction was allowed to stir at room temperature for 20 h. TLC showed the reaction to be complete and the mixture was evaporated to dryness. The residue was triturated with ether and the resulting white crystals were filtered off and dried in air. Recrystallisation from hot isopropanol gave a white powder (46 mg, 46%).

reactant | N-cyclohexyl-N-methyl-4-(pyridin-3-yl)-1H-imidazole-1-carboxamide | 0.317 mmol, 90 mg | C1(CCCCC1)N(C(=O)N1C=NC(=C1)C=1C=NC=CC1)C | C16H20N4O
reactant | 3-chlorobenzoperoxoic acid | 0.475 mmol, 149 mg | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | chloroform | 5 mL | C(Cl)(Cl)Cl | CHCl3
product | 3-(1-(cyclohexyl(methyl)carbamoyl)-1H-imidazol-4-yl)pyridine 1-oxide | 46 mg, 46% | C1(CCCCC1)N(C(=O)N1C=NC(=C1)C=1C=[N+](C=CC1)[O-])C | C16H20N4O2
